US06441005B1
5-(S)-Thioacetamidomethyl-3-[4′-methylamino-3′-fluorophenyl]oxazolidine-2-one
A mixture of 5-(S)-acetamidomethyl-3-[4′-methylamino-3′-fluorophenyl]oxazolidine-2-one (0.100 g, 0.356 mmol) and Lawesson reagent (0.144 g, 0.356 mmol) in dioxane (3 mL) was stirred at 65° C. for 2 h. Solvent was removed under vacuum and the residue purified by PTLC (10% methanol/dichloromethane) to give a product as foam. Yield 0.097 g (92%). MS (m/z): [M+H]+=298.

reactant | 5-(S)-acetamidomethyl-3-[4′-methylamino-3′-fluorophenyl]oxazolidine-2-one | 0.356 mmol, 0.100 g | C(C)(=O)NC[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)NC)F | C13H16FN3O3
reactant | Lawesson reagent | 0.356 mmol, 0.144 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | 5-(S)-Thioacetamidomethyl-3-[4′-methylamino-3′-fluorophenyl]oxazolidine-2-one | C(C)(=S)NC[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)NC)F | C13H16FN3O2S
